US09428510B2
35 ml (23.47 mmol) of hydrazine is added at room temperature to 5 g (23.47 mmol) of 5-bromo-2-methoxynicotinonitrile. The reaction medium is carried at 100° C. for 3 hours. After returning to room temperature, the precipitate obtained is filtered, rinsed with water and then dried at 50° C. to yield 3.6 g (72%) of 5-bromo-1H-pyrazolo[3,4-b]pyridine-3-amine in the form of a yellow solid.

reactant | hydrazine | 23.47 mmol, 35 ml | NN | H4N2
reactant | 5-bromo-2-methoxynicotinonitrile | 23.47 mmol | BrC=1C=NC(=C(C#N)C1)OC | C7H5BrN2O
product | 5-bromo-1H-pyrazolo[3,4-b]pyridine-3-amine | 3.6 g, 72% | BrC=1C=C2C(=NC1)NN=C2N | C6H5BrN4
